US06380230B1
a) N-(Boc)-2,4,6-trimethylaniline
A solution of 36 g of Boc2O in 60 ml of heptane is refluxed. 20.28 g of 2,4,6-trimethylaniline are added dropwise and the mixture is refluxed for 3 hours. It is cooled and filtered through silica, eluting with DCM. This solution is evaporated to give 33.5 g of the expected compound in the form of a white crystalline product: m.p.=73-73.5° C.

reactant | Boc2O | 36 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2,4,6-trimethylaniline | 20.28 g | CC1=C(N)C(=CC(=C1)C)C | C9H13N
solvent | heptane | 60 ml | CCCCCCC | C7H16
product | N-(Boc)-2,4,6-trimethylaniline | 33.5 g | C(=O)(OC(C)(C)C)NC1=C(C=C(C=C1C)C)C | C14H21NO2
